* C:\Users\Linas\Desktop\STM32_stuff\Projects_older_workspace\Battery_analyzer\PWM_RC_filter.asc
V1 N001 0 PULSE(0 3.3 1m 1u 1u {duty} 25u)
R1 Vg N001 220k
R2 Vg 0 50k
C1 Vg 0 1µ
.tran 500m
.param duty=2.5u
.backanno
.end
